US07531565B2
1-(4-Fluoro-phenyl)-4-methyl-2-oxo-imidazolidine-4-carboxylic acid (4-cyano-3-trifluoromethyl-phenyl)-amide (6a)
A solution of 1-(4-fluoro-phenyl)-4-methyl-2-oxo-imidazolidine-4-carboxylic acid (120 mg, 0.50 mmol) in DCM (15 mL) was treated oxalyl chloride (0.09 mL, 1.03 mmol) and one drop of dry DMF. After stirring 1 hour at room temperature, the solvent was removed in vacuo. To this residue, a solution of 4-amino-2-(trifluoromethyl)benzonitrile (277 mg, 1.49 mmol) and triethylamine (0.28 mL, 2.01 mmol) in dry DCM (10 mL) was added. After stirring overnight at room temperature, the mixture was concentrated in vacuo and the residue purified by flash chromatography to afford the title compound as a tan solid (110 mg, 54%).

reactant | 1-(4-fluoro-phenyl)-4-methyl-2-oxo-imidazolidine-4-carboxylic acid | 0.50 mmol, 120 mg | FC1=CC=C(C=C1)N1C(NC(C1)(C(=O)O)C)=O | C11H11FN2O3
reactant | oxalyl chloride | 1.03 mmol, 0.09 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-amino-2-(trifluoromethyl)benzonitrile | 1.49 mmol, 277 mg | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | triethylamine | 2.01 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Fluoro-phenyl)-4-methyl-2-oxo-imidazolidine-4-carboxylic acid (4-cyano-3-trifluoromethyl-phenyl)-amide | 110 mg, 54% | C(#N)C1=C(C=C(C=C1)NC(=O)C1(NC(N(C1)C1=CC=C(C=C1)F)=O)C)C(F)(F)F | C19H14F4N4O2
